US05840732
ii) Synthesis of 5-(1-methylpiperazin-4-yl)methylene-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione trihydrochloride
To a solution of 330 mg (0.76 mmol) of 5-(1-methylpiperazin-4-yl)methylene-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione in 10 ml of methanol, concentrated hydrochloric acid was added. After the solvent was distilled off, the residue was washed with diethyl ether to yield 360 mg (82.0%, white crystal) of the desired product.

reactant | 5-(1-methylpiperazin-4-yl)methylene-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione | 0.76 mmol, 330 mg | CN1CCN(CC1)C=C1C(N(C(S1)=O)CCCCSC1=CC=CC=2N1C=CN2)=O | C20H25N5O2S2
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
product | 5-(1-methylpiperazin-4-yl)methylene-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione trihydrochloride | Cl.Cl.Cl.CN1CCN(CC1)C=C1C(N(C(S1)=O)CCCCSC1=CC=CC=2N1C=CN2)=O | InChI=1S/C20H25N5O2S2.3ClH/c1-22-10-12-23(13-11-22)15-16-19(26)25(20(27)29-16)8-2-3-14-28-18-6-4-5-17-21-7-9-24(17)18;;;/h4-7,9,15H,2-3,8,10-14H2,1H3;3*1H
